US07906654B2
Synthesis of 3-amino-2-[(2-hydroxyethyl)amino]benzonitrile
Methanol (500 ml) and Pd/activated charcoal 5% (wet, 3.45 g) are added to 2-[(2-hydroxyethyl)amino]-3-nitrobenzonitrile (69 g, 0.333 mol). The suspension is shaken in a Parr apparatus under 20 psi pressure of hydrogen for 1 hour. The mixture is then filtered on Celite and evaporated to dryness to give the desired material (62.7 g). This product is used in the next step without further purification.

reactant | 2-[(2-hydroxyethyl)amino]-3-nitrobenzonitrile | 0.333 mol, 69 g | OCCNC1=C(C#N)C=CC=C1[N+](=O)[O-] | C9H9N3O3
reactant | hydrogen | [H][H] | H2
catalyst | Pd | 3.45 g | [Pd] | Pd
solvent | Methanol | 500 ml | CO | CH4O
product | 3-amino-2-[(2-hydroxyethyl)amino]benzonitrile | 62.7 g | NC=1C(=C(C#N)C=CC1)NCCO | C9H11N3O
